US07625902B2
In analogy to example 1, (RS)-3-(2,4-difluoro-phenyl)-2-oxo-1-(propane-2-sulfonyl)-imidazolidine-4-carboxylic acid methyl ester was hydrolyzed using lithium hydroxide solution to give (RS)-3-(2,4-difluoro-phenyl)-2-oxo-1-(propane-2-sulfonyl)-imidazolidine-4-carboxylic acid.

reactant | (RS)-3-(2,4-difluoro-phenyl)-2-oxo-1-(propane-2-sulfonyl)-imidazolidine-4-carboxylic acid methyl ester | COC(=O)C1N(C(N(C1)S(=O)(=O)C(C)C)=O)C1=C(C=C(C=C1)F)F | C14H16F2N2O5S
reactant | lithium hydroxide | [OH-].[Li+]
product | (RS)-3-(2,4-difluoro-phenyl)-2-oxo-1-(propane-2-sulfonyl)-imidazolidine-4-carboxylic acid | FC1=C(C=CC(=C1)F)N1C(N(CC1C(=O)O)S(=O)(=O)C(C)C)=O | C13H14F2N2O5S
